US07888352B2
To N-Boc-piperazine (500 mg) in DCM (10 ml) was added triethylamine (450 μl) and 4-fluorobenzenesulfonyl chloride (564 mg). The reaction mixture was stirred at room temperature overnight, then partitioned between dichloromethane and water, washed with brine, organics were dried over MgSO4, filtered and volatiles removed in vacuo to give 4-(4-fluoro-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (937 mg).

reactant | N-Boc-piperazine | 500 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 450 μl | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 564 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-fluoro-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 937 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)F | C15H21FN2O4S
